US06294573B1
1-methoxy-3-[[4′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]sulfonyl]-2-propanone
A solution of 4-(4′-trifluoromethylphenyl)phenyl methyl sulfone (1.0 g, 3.33 mmol) in THF (50 mL) at −78° C. was treated with n-butyllithium (2.5M/hexanes, 1.4 mL, 3.50 mmol), stirred at −78° C. for 1.5 hours and then treated with ethyl methoxyacetate (0.78 mL, 6.66 mmol), stirred at −78° C. for three hours, treated with saturated NH4Cl solution, and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4), concentrated and purified on silica gel with 30-50% ethyl acetate/hexanes to provide 902 mg (73%) of the title compound as a white solid. MS (APCI) m/z 390 (M+NH4)+, 371 (M−H)−, 470 (M+Cl)−.

reactant | 4-(4′-trifluoromethylphenyl)phenyl methyl sulfone | 3.33 mmol, 1.0 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C14H11F3O2S
reactant | n-butyllithium | 3.50 mmol, 2.5M, 1.4 mL | C(CCC)[Li]
reactant | ethyl methoxyacetate | 6.66 mmol, 0.78 mL | COCC(=O)OCC | C5H10O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-methoxy-3-[[4′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]sulfonyl]-2-propanone | 902 mg, 73% | COCC(CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O4S
